US07795249B2
A mixture of 2-chloro-6-fluorobenzaldehyde (0.599 g, 3.8 mmol) and 1-phenylethanone (0.414 mL, 0.38 mmol) in piperidine (1 mL) was heated at 100° C. for 1 h. The reaction mixture was allowed to cool to rt and was concentrated. The residue was purified by column chromatography to give (2E)-3-(2-chloro-6-fluorophenyl)-1-pyridin-3-ylprop-2-en-1-one (0.28 g, 28%).

reactant | 2-chloro-6-fluorobenzaldehyde | 3.8 mmol, 0.599 g | ClC1=C(C=O)C(=CC=C1)F | C7H4ClFO
reactant | 1-phenylethanone | 0.38 mmol, 0.414 mL | C1(=CC=CC=C1)C(C)=O | C8H8O
reactant | piperidine | 1 mL | N1CCCCC1 | C5H11N
product | (2E)-3-(2-chloro-6-fluorophenyl)-1-pyridin-3-ylprop-2-en-1-one | 0.28 g, 28% | ClC1=C(C(=CC=C1)F)/C=C/C(=O)C=1C=NC=CC1 | C14H9ClFNO
